US09284283B2
2,2′-(cyclobutane-1,1-diyl)diacetic acid (0.7 g, 4.07 mmol) was dissolved in acetic anhydride (5.75 mL, 61.0 mmol) and refluxed overnight. The solution was cooled to r.t. Acetic anhydride was removed under reduced pressure to give a brown oil, which was then recrystallized by dissolving in ether/hexanes, cooling to 0° C. and collecting crystals by vacuum filtration. The crystals were dried under vacuum overnight producing 7-oxaspiro[3.5]nonane-6,8-dione (2.147 mmol, 52.8% yield) as a light brown solid.

reactant | 2,2′-(cyclobutane-1,1-diyl)diacetic acid | 4.07 mmol, 0.7 g | C1(CCC1)(CC(=O)O)CC(=O)O | C8H12O4
reactant | acetic anhydride | 61.0 mmol, 5.75 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 7-oxaspiro[3.5]nonane-6,8-dione | 2.147 mmol, 52.8% yield | C1CCC12CC(OC(C2)=O)=O | C8H10O3
